US05298652
To a solution of 1.0 g (2.4 mmol) of 3-(octadecyloxy)-alpha-oxobenzeneacetic acid in 50 ml of anhydrous methylene chloride and 2 drops of DMF stirred in an ice bath was added 1.1 ml (11.9 mmol) of oxalyl chloride. The cooling bath was removed and stirring was continued at room temperature for 2 hours. The solvent was removed at reduced pressure and the residual acid chloride was dissolved in 40 ml of anhydrous methylene chloride and added dropwise to a stirred, ice bath cooled solution of 0.6 ml (3.6 mmol) of diethyl iminodiacetate and 0.66 ml (4.8 mmol) of triethylamine in 10 ml of methylene chloride. The mixture was stirred for 30 minutes in the ice bath and then at room temperature for 19 hours when it was washed with NaHCO3 solution, dried and concentrated to an oil which was purified by chromatography on 35 g of 230-400 mesh silica gel using 20% ethyl acetate-hexane to give 1.3 g (93% yield, mp 27°-29°) of N-(2-ethoxy-2-oxoethyl)-N-[2-[3-(octadecyloxy)phenyl]-1,2-dioxoethyl]glycine ethyl ester.

reactant | 3-(octadecyloxy)-alpha-oxobenzeneacetic acid | 2.4 mmol, 1.0 g | C(CCCCCCCCCCCCCCCCC)OC=1C=C(C=CC1)C(C(=O)O)=O | C26H42O4
reactant | oxalyl chloride | 11.9 mmol, 1.1 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | diethyl iminodiacetate | 3.6 mmol, 0.6 ml | N(CC(=O)OCC)CC(=O)OCC | C8H15NO4
reactant | triethylamine | 4.8 mmol, 0.66 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-(2-ethoxy-2-oxoethyl)-N-[2-[3-(octadecyloxy)phenyl]-1,2-dioxoethyl]glycine ethyl ester | 1.3 g, 93% yield | C(C)OC(CN(C(C(=O)C1=CC(=CC=C1)OCCCCCCCCCCCCCCCCCC)=O)CC(=O)OCC)=O | C34H55NO7
